***********************************************
* HP Memristor SPICE Model
* For Transient Analysis only
* created by Zdenek and Dalibor Biolek
***********************************************
* Ron, Roff - Resistance in ON / OFF States
*
* Rinit - Resistance at T=0
*
* D - Width of the thin film
*
* uv - Migration coefficient
*
* p - Parameter of the WINDOW-function for
*     modeling nonlinear boundary conditions
*
* x - W/D Ratio, W is the actual width
*     of the doped area (from 0 to D)
*
***********************************************
.SUBCKT memristor plus minus PARAMS:
+ Ron=100 Roff=100K Rinit=100 D=1N uv=10F p=1

***********************************************
* DIFFERENTIAL EQUATION MODELING *
***********************************************
Gx 0 x value={I(Emem)*uv*Ron/D**2*f(V(x),p)}
Cx x 0 1 IC={(Roff-Rinit)/(Roff-Ron)}
Raux x 0 1T

***********************************************
* RESISTIVE PORT OF THE MEMRISTOR *
***********************************************
Emem plus aux value={-I(Emem)*V(x)*(Roff-Ron)}
Roff aux minus {Roff}

***********************************************
* FLUX COMPUTATION *
***********************************************
Eflux flux 0 value={SDT(V(plus,minus))}

***********************************************
* CHARGE COMPUTATION *
***********************************************
Echarge charge 0 value={SDT(I(Emem))}

***********************************************
* WINDOW FUNCTIONS
* FOR NONLINEAR DRIFT MODELING *
***********************************************
* window function, according to Joglekar
.func f(x,p)={1-(2*x-1)**(2*p)}

* proposed window function
;.func f(x,i,p)={1-(x-sttp(-i))**(2*p)}

.ENDS memristor
